US05013479
The procedure of Example 26 was followed except for use of (-)-4-(1-methoxyethyl)phenol in place of (+)-4-(1-methoxyethyl)phenol and 4-octyloxybenzoic acid chloride in place of 4'-octyloxy-4-biphenylcarboxylic acid chloride to obtain (-)-4-(1-methoxyethyl)phenyl 4-octyloxybenzoate. [α]D20 =-57.5° (c=1, CHCl3).

reactant | (-)-4-(1-methoxyethyl)phenol | COC(C)C1=CC=C(C=C1)O | C9H12O2
reactant | 4-octyloxybenzoic acid chloride | C(CCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
product | (-)-4-(1-methoxyethyl)phenyl 4-octyloxybenzoate | C(CCCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)C(C)OC)C=C1 | C24H32O4
